US08293751B2
To a mixture of 4,6-dichloro-5-[1,3]dioxolan-2-yl-pyrimidine (100.0 mg, 0.45 mmol) and added Potassium Carbonate (80.62 mg, 0.45 mmol) in DMF (5 mL) cooled to 0° C. was added a solution of 4-[1,2,3]-thiadiazol-4-yl-phenol (DMF) drop wise. The resulting mixture was stirred at room temperature for 30 minutes to give 4-chloro-5-[1,3]dioxolan-2-yl-6-(4-[1,2,3]thiadiazol-4-yl-phenoxy)-pyrimidine. LCMS (ESI) for C15H11ClN4O3S: m/z 362.9 (M+H+, 100%).

reactant | 4,6-dichloro-5-[1,3]dioxolan-2-yl-pyrimidine | 0.45 mmol, 100.0 mg | ClC1=NC=NC(=C1C1OCCO1)Cl | C7H6Cl2N2O2
reactant | Potassium Carbonate | 0.45 mmol, 80.62 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 4-[1,2,3]-thiadiazol-4-yl-phenol | S1N=NC(=C1)C1=CC=C(C=C1)O | C8H6N2OS
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 4-chloro-5-[1,3]dioxolan-2-yl-6-(4-[1,2,3]thiadiazol-4-yl-phenoxy)-pyrimidine | ClC1=NC=NC(=C1C1OCCO1)OC1=CC=C(C=C1)C=1N=NSC1 | C15H11ClN4O3S
